US08604061B2
b) (R)-2-Amino-3-phenylsulfanyl-propan-1-ol
To a stirred suspension of (R)-2-amino-3-phenylsulfanyl-propionic acid methyl ester hydrochloride (0.50 g, 2.0 mmol) in tetrahydrofuran (10 ml) under an argon atmosphere was added slowly lithium aluminum hydride (0.153 g, 4.0 mmol) and the mixture was stirred overnight at room temperature. For work-up water (1.5 ml) and 2N sodium hydroxide solution (0.5 ml) were added and the mixture was stirred for 30 min. After filtration the solvent was evaporated and the residue was purified by column chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: heptane/EtOAc=1:1 to yield a light yellow oil, (0.095 g, 26%); MS (ISP): 183.9 ((M+H)+.).

reactant | (R)-2-amino-3-phenylsulfanyl-propionic acid methyl ester hydrochloride | 2.0 mmol, 0.50 g | Cl.COC([C@H](CSC1=CC=CC=C1)N)=O
reactant | lithium aluminum hydride | 4.0 mmol, 0.153 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.5 ml | O | H2O
reactant | sodium hydroxide | 2N, 0.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-2-Amino-3-phenylsulfanyl-propan-1-ol | N[C@H](CO)CSC1=CC=CC=C1 | C9H13NOS
